US06630600B1
Potassium ethoxide (505 g; 6 mole) was added to a solution of ethanol (710 ml) and diethyl ether (4.8 l) and the mixture was cooled to 0° C. 4-(Benzyloxy)-1-methyl-2-nitrobenzene (639.8 g; 3 mole) dissolved in diethyl oxalate (900 g; 6.16 mole) and toluene (1500 ml) was added slowly during 30 minutes. The reaction mixture was stirred for 3 hours at 0° C. and then allowed to stand cold over night. After 5 days at room temperature the reaction mixture was filtered and the filter cake was washed with diethyl ether (2 l). The cake was then treated with water (10 l), sodium hydroxide (5 M, 0.8 l) and extracted three times with diethyl ether (3×3 l). The water phase was cooled and acidified in two steps while stirring with hydrochloric acid:water (1:1, 0.9 l). First to pH 5 and the reaction mixture was then stirred for 1 hour before the acidification continued to pH 2. The reaction mixture was cooled in an ice:sodium chloride bath. Filtration after 1 hour gave 849.5 g (89.8%) of 3-(4-benzyloxy-2-nitrophenyl)-2-oxopropanoic acid.

reactant | Potassium ethoxide | 6 mole, 505 g | [O-]CC.[K+]
reactant | ethanol | 710 ml | C(C)O | C2H6O
reactant | 4-(Benzyloxy)-1-methyl-2-nitrobenzene | 3 mole, 639.8 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C)[N+](=O)[O-] | C14H13NO3
reactant | diethyl oxalate | 6.16 mole, 900 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | toluene | 1500 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 4.8 l | C(C)OCC | C4H10O
product | 3-(4-benzyloxy-2-nitrophenyl)-2-oxopropanoic acid | 849.5 g, 89.8% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(C(=O)O)=O)[N+](=O)[O-] | C16H13NO6
